US07851626B2
{(4S,5R)-4,5-Bis-(4-chlorophenyl)-2-[2-ethoxy-5-(pyrrolidine-1-sulfonyl)phenyl]-4,5-dimethyl-4,5-dihydroimidazol-1-yl}-[4-(3-methanesulfonylpropyl)-piperazin-1-yl]methanone
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-[2-ethoxy-5-(pyrrolidine-1-sulfonyl)-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 1-(3-methanesulfonyl-propyl)-piperazine dihydrochloride (prepared as described in Fotouhi, N. et al. WO 2005110996) to give the title compound as a racemic mixture. The enantiomers were then separated by supercritical fluid chromatography (Berger Instrument Multi-Gram II, Daicel ChiralPak OD-H 3×25 cm, 35° C. at 100 bar, eluting with 35% methanol in carbon dioxide). HR-MS (ES, m/z) calculated for C38H48N5O6S2Cl2 [(M+H)+] 804.2418, observed 804.2413

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-[2-ethoxy-5-(pyrrolidine-1-sulfonyl)-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=CC(=C1)S(=O)(=O)N1CCCC1)OCC)C | C30H30Cl3N3O4S
reactant | 1-(3-methanesulfonyl-propyl)-piperazine dihydrochloride | Cl.Cl.CS(=O)(=O)CCCN1CCNCC1
product | {(4S,5R)-4,5-Bis-(4-chlorophenyl)-2-[2-ethoxy-5-(pyrrolidine-1-sulfonyl)phenyl]-4,5-dimethyl-4,5-dihydroimidazol-1-yl}-[4-(3-methanesulfonylpropyl)-piperazin-1-yl]methanone | ClC1=CC=C(C=C1)[C@@]1(N=C(N([C@]1(C)C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CCCS(=O)(=O)C)C1=C(C=CC(=C1)S(=O)(=O)N1CCCC1)OCC)C | C38H47Cl2N5O6S2
